US04010177
In the manner given in Example 47, 2',5-dichloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone is treated first with methanesulfonic anhydride followed by allylamine to give 2',5-dichloro-2-[3-[(allylamino)methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2',5-dichloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN(C)C)CO)=O | C19H18Cl2N4O2
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | allylamine | C(C=C)N | C3H7N
product | 2',5-dichloro-2-[3-[(allylamino)methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN(C)C)CNCC=C)=O | C22H23Cl2N5O
